US07435823B2
Step (a) Preparation of 6-(2-carbamoylpyridin-4-yloxy)-1-napthoic acid
6-Hydroxy-1-napthoic acid (2.5 g, 13 mmol) was reacted with 4-chloropicolinamide (WO 02/085857)(2.6 g, 15 mmol) under the conditions of Example 421 Step a to give the title compound as a brown solid. MS (ESI, pos. ion) m/z: 309.2 (M+1). Mass Calc'd for C17H12N2O4: 308.29.

reactant | 6-Hydroxy-1-napthoic acid | 13 mmol, 2.5 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | 4-chloropicolinamide | 15 mmol, 2.6 g | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
product | 6-(2-carbamoylpyridin-4-yloxy)-1-napthoic acid | C(N)(=O)C1=NC=CC(=C1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C17H12N2O4
